US07576094B2
To a solution of 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one (80 mg) in THF (6 mL) and methanol (1.5 mL) cooled in ice bath, was added NaBH4 (81.7 mg). After 1.5 h, 5 mL acetone was added to the solution and the mixture was evaporated to yield a thick oil, which was taken up by EtOAc. The organic phase was then washed with brine, dried and evaporated to give 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-4′-ol (64.3 mg) 1H-NMR (300 MHz, CDCl3) δ=7.21-6.977 (d, 2H); 6.67 (br s, 2H); 4.745 (s, 1H); 3.949-3.753 (d, 1H); 3.687 (s, 3H); 3.629-3.54 (d, 1H); 2.426 (s, 3H); 2.312-2.174 (m, 1H); 2.147 (s, 3H); 1.967-1.737 (m, 3H); 1.705 (s, 3H); 1.672-1.489 (m, 2H) ppm.

reactant | 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one | 80 mg | ClC1=CC=C(C=C1)N1CC2(C(C3=C(C(=C(C(=C13)C)C)OC)C)=O)CCC2 | C22H24ClNO2
reactant | NaBH4 | 81.7 mg | [BH4-].[Na+]
reactant | acetone | 5 mL | CC(=O)C | C3H6O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.5 mL | CO | CH4O
product | 1′-(4-chlorophenyl)-6′-methoxy-5′,7′,8′-trimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-4′-ol | 64.3 mg | ClC1=CC=C(C=C1)N1CC2(C(C3=C(C(=C(C(=C13)C)C)OC)C)O)CCC2 | C22H26ClNO2
